US04441496
96/4 p-Dioxanone/2,5-Morpholinedione Copolymer
P-Dioxanone (255.4 g, 2.504 moles), 2.5-morpholinedione (12.0 g, 0.104 moles), 1-dodecanol (0.763 g, 0.00409 moles) and a catalytic amount of stannous octoate (0.525 ml of a 0.33 M toluene solution, 0.000173 moles) are heated and magnetically mixed in a flame and vacuum dried, sealed glass ampoule according to the following temperature/time scheme:

reactant | 2.5-morpholinedione | 0.104 moles, 12.0 g | N1CC(OCC1=O)=O | C4H5NO3
reactant | 1-dodecanol | 0.00409 moles, 0.763 g | C(CCCCCCCCCCC)O | C12H26O
reactant | stannous octoate | CCCCC(CC)C(=O)[O-].CCCCC(CC)C(=O)[O-].[Sn+2]
solvent | toluene | 0.33 M | C1(=CC=CC=C1)C | C7H8
product | p-Dioxanone 2,5-Morpholinedione | O1C(COCC1)=O.N1CC(OCC1=O)=O | InChI=1S/C4H5NO3.C4H6O3/c6-3-2-8-4(7)1-5-3;5-4-3-6-1-2-7-4/h1-2H2,(H,5,6);1-3H2
